US04515948
A suspension of 44.2 g. of dimethylsulfone and 16 g. of sodium hydride (50% dispersion in oil) in 150 ml. of absolute dimethylsulfoxide was stirred at 50° C. for 4 hours under an atmosphere of nitrogen and the exclusion of moisture. 30.4 g. of 3,5-dimethoxy-4-(methylamino)-benzoic acid methyl ester were added and the mixture was stirred at 80° C. for 10 minutes and at 25° C. for 30 minutes. The mixture was then dissolved in 600 ml. of water and the solution was made neutral by the addition of glacial acetic acid. The precipitate was removed by filtration with suction, washed with water, dried and recrystallized from ethyl acetate, whereby there was obtained 3',5'-dimethoxy-4'-(methylamino)-2-(methylsulfonyl)-acetophenone having a melting point of 98°-99° C.

reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 3,5-dimethoxy-4-(methylamino)-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)NC)OC)=O | C11H15NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3',5'-dimethoxy-4'-(methylamino)-2-(methylsulfonyl)-acetophenone | COC=1C=C(C=C(C1NC)OC)C(CS(=O)(=O)C)=O | C12H17NO5S
